### PR TITLE
feat(ErdosProblems): 1085

### LINKED ISSUE #1285: Erdős Problem 1085
### What is the conjecture

https://www.erdosproblems.com/1085

  Let $f_d(n)$ be minimal such that, in any set of $n$ points in $\mathbb{R}^d$, there exist at most $f_d(n)$ pairs of points which distance $1$ apart. Estimate $f_d(n)$.

Status:open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by ayush31010**
Resolves #1285

This PR adds the formalization of Erdős Problem 1085.

## Problem Statement
Let $f_d(n)$ be minimal such that, in any set of $n$ points in $\mathbb{R}^d$, there exist at most $f_d(n)$ pairs of points which are distance 1 apart. Estimate $f_d(n)$.

## Implementation
- `countUnitDistancePairs`: Counts pairs of points in a finite set that are exactly distance 1 apart
- `f_d`: Defines the function $f_d(n)$ as the supremum over all sets of $n$ points in $\mathbb{R}^d$
- `erdos_1085`: The main theorem asking for bounds on $f_d(n)$

Both definitions are marked as `noncomputable` as they depend on decidability of real equality and supremum operations.

### CODE REVIEW

**Comment by ayushdebnath012** [comment]
@YaelDillies

File: FormalConjectures/ErdosProblems/1085.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+
+open EuclideanSpace Finset
+
+variable {d : ℕ}
+
+/--
+The number of pairs of points in a finite set `S` of points in `ℝ^d` that are distance 1 apart.
+-/
+noncomputable def countUnitDistancePairs (d : ℕ) (S : Finset (EuclideanSpace ℝ (Fin d))) : ℕ :=
+  (S.offDiag.filter (fun (p, q) => dist p q = 1)).card
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1085.lean]:
```suggestion
  #(S.offDiag.filter fun (p, q) => dist p q = 1)
```

File: FormalConjectures/ErdosProblems/1085.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+-/
+noncomputable def f_d (d n : ℕ) : ℕ :=
+  ⨆ (S : Finset (EuclideanSpace ℝ (Fin d))) (_ : S.card = n), countUnitDistancePairs d S
+
+/--
+Estimate f_d(n). This asks for good upper and lower bounds on f_d(n) as a function of n and d.
+-/
+@[category research open, AMS 52]
+theorem erdos_1085 :
+    (∃ bounds : ℕ → ℕ → ℕ, ∀ d n : ℕ, f_d d n ≤ bounds d n) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1085.lean]: This statement is too vague. As given right now, it is trivial. Maybe state all known bounds instead?

File: FormalConjectures/ErdosProblems/1085.lean (hunk 1 above)
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1085.lean]: This statement is off by a factor of 2: You should use `.sym2` instead of `.offDiag`

**Comment by ayushdebnath012** [comment]
@YaelDillies done

File: FormalConjectures/ErdosProblems/1085.lean [hunk 3]
```diff
@@ -0,0 +1,61 @@
...
+c₁ * n^α ≤ f_d(n) ≤ c₂ * n^β for all sufficiently large n.
+
+Known results:
+- For d=2: f_2(n) = O(n^(4/3)) and f_2(n) = Ω(n^(1+c/log log n)) for some c > 0
+- For d≥3: f_d(n) = Θ(n^(2-2/d)) (Spencer-Szemerédi-Trotter)
+-/
+@[category research open, AMS 52]
+theorem erdos_1085 :
+    (∀ d n : ℕ, n > 0 → f_d d n ≤ answer(sorry) * n ^ answer(sorry)) ∧
+    (∀ d n : ℕ, n > answer(sorry) → f_d d n ≥ answer(sorry) * n ^ answer(sorry)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1085.lean]: @eric-wieser, @mo271, is it acceptable to use `answer(sorry)` for data?

Comment (eric-wieser) [reply FormalConjectures/ErdosProblems/1085.lean]: I think it's better to have a single answer containing all the data.

File: FormalConjectures/ErdosProblems/1085.lean [hunk 4]
```diff
@@ -45,17 +45,33 @@ noncomputable def f_d (d n : ℕ) : ℕ :=
...
 
 /--
-Estimate f_d(n). Find the best possible constants c₁, c₂, α, β such that
-c₁ * n^α ≤ f_d(n) ≤ c₂ * n^β for all sufficiently large n.
+Upper bound for d=2: f_2(n) = O(n^(4/3)).
+This bound is due to Spencer, Szemerédi, and Trotter.
+-/
+@[category research open, AMS 52]
+theorem erdos_1085_upper_d2 :
+    ∃ c : ℝ, ∃ N : ℕ, ∀ n : ℕ, n ≥ N → (f_d 2 n : ℝ) ≤ answer(c * n ^ (4/3 : ℝ)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1085.lean]: No need to use `answer()` when the answer is known

File: FormalConjectures/ErdosProblems/1085.lean [hunk 5]
```diff
@@ -45,17 +45,33 @@ noncomputable def f_d (d n : ℕ) : ℕ :=
   ⨆ (S : Finset (EuclideanSpace ℝ (Fin d))) (_ : S.card = n), countUnitDistancePairs d S
 
 /--
-Estimate f_d(n). Find the best possible constants c₁, c₂, α, β such that
-c₁ * n^α ≤ f_d(n) ≤ c₂ * n^β for all sufficiently large n.
+Upper bound for d=2: f_2(n) = O(n^(4/3)).
+This bound is due to Spencer, Szemerédi, and Trotter.
+-/
+@[category research open, AMS 52]
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1085.lean]:
```suggestion
@[category research solved, AMS 52]
```

File: FormalConjectures/ErdosProblems/1085.lean (hunk 4 above)
Comment (eric-wieser) [reply FormalConjectures/ErdosProblems/1085.lean]: I disagree, if the statement is a question then the answer should be marked, to allow it to be used as a benchmark for cases where agents are not shown the answer.

**Comment by ayushdebnath012** [comment]
@YaelDillies

File: FormalConjectures/ErdosProblems/1085.lean [hunk 6]
```diff
@@ -0,0 +1,77 @@
...
+
+open EuclideanSpace Finset
+
+variable {d : ℕ}
+
+/--
+The number of pairs of points in a finite set `S` of points in `ℝ^d` that are distance 1 apart.
+-/
+noncomputable def countUnitDistancePairs (d : ℕ) (S : Finset (EuclideanSpace ℝ (Fin d))) : ℕ :=
+  #(S.sym2.filter fun s => dist s.out.1 s.out.2 = 1)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1085.lean]:
```suggestion
  #{s \in S.sym2 | dist s.out.1 s.out.2 = 1}
```
Sorry for unicode

File: FormalConjectures/ErdosProblems/1085.lean [hunk 7]
```diff
@@ -0,0 +1,77 @@
...
+
+/--
+The minimal value f_d(n) such that for any set of n points in ℝ^d, there exist at most f_d(n)
+pairs of points which are distance 1 apart.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1085.lean]:
```suggestion
The maximal number of pairs of points which are distance 1 apart that a set of `n` points in `ℝ^d` make.
```
seems clearere

**Comment by ayushdebnath012** [comment]
@YaelDillies

**Comment by YaelDillies** [comment]
Can you *please* at least check the build locally before asking for another review?

**Comment by ayushdebnath012** [comment]
> Can you _please_ at least check the build locally before asking for another review?

It is running locally now @YaelDillies

**Comment by YaelDillies** [comment]
I thought I would do a final cleanup, then merge, but then I realised there were many more statements on the website than you claimed, and in particular some that contradicted your final statement. I ended up redoing everything in #1438.
